US08389744B1
6,13-Pentacenequinone
To a clear solution of α,α,α′,α′-tetrabromo-o-xylene (30.5 g, 0.073 mol) in DMF (100 mL) was added benzoquinone (3.125 g, 0.03 mol) and sodium iodide (27.25 g, 0.18 mol). The resulting brown suspension was heated and stirred at 120° C. overnight. After cooling to RT, the yellow solids were filtered via vacuum filtration. The yellow solids were washed with water, saturated sodium bisulfite solution and dried to yield the product (8.1 g, 91%). 1H NMR (500 MHz, CDCl3): δ 8.96 (s, 4H), 8.14 (m, 4H), 7.72 (m, 4H). 13C NMR (125.68 MHz, CDCl3): δ 183.2, 135.47, 130.80, 130.30, 129.98, 129.66. m/z: 308 [W].

reactant | α,α,α′,α′-tetrabromo-o-xylene | 0.073 mol, 30.5 g | BrC(C=1C(=CC=CC1)C(Br)Br)Br | C8H6Br4
reactant | benzoquinone | 0.03 mol, 3.125 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | sodium iodide | 0.18 mol, 27.25 g | [I-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 6,13-Pentacenequinone | 8.1 g, 91% | C1=CC=CC2=CC=3C(C4=CC5=CC=CC=C5C=C4C(C3C=C12)=O)=O | C22H12O2
